US05840990
(+)-(1S, 2R, 4R)-4[2-amino-6-(1-azetidinvl)-9H-purin-9-yl]-2-(hydroxymethyl)-1-cyclopentanol
(+)-(1S, 2R, 4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol (340 mg, 1.20 mmol) and azetidine (98%, ALdrich, 1.0 mL) and methanol (6 mL) were maintained at 60° C. in a sealed tube for 18 hours. To the cooled solution was added 1N sodium hydroxide (1.2 mL). Volatiles were evaporated and the residue chromatographed on silica gel. Title compound was eluted with methanol: ethyl acetatel 15:85 as a white foam which solidified to white powder from methanol-acetonitrile (333 mg, 91%), mp 194°-195°; mass spectrum (Cl, CH4) 305 (M+1)- ; 1H-NMR (DMSO-d6)δ: 7.81 (s, 1, H8), 5.88 (br s, 2, NH2), 495-4.80 (m. 1, CH-N), 4.76 (d, J=3.9 Hz, 1, OH),4.66 (t, J=5.0 Hz, 1, CH2 -OH). 4.4-4.15(br m, 4, 2CH2N), 4.10-4.0 (m, 1, CHO), 3.6-3.4 (m, 2, CH2O), 2.5-1.9 (m, 6, methylene), 1.75-1.5 (m, 1, 1/2CH2):[α]20589 +10.1°,[α]20578 +10.7°, [α]20540 +11.9°, [α]20436 +18.3°, [α]20356 +25.2°(c=0.812, methanol).

reactant | (+)-(1S, 2R, 4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol | 1.20 mmol, 340 mg | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)Cl | C11H14ClN5O2
reactant | azetidine | 1.0 mL | N1CCC1 | C3H7N
reactant | sodium hydroxide | 1N, 1.2 mL | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | (+)-(1S, 2R, 4R)-4[2-amino-6-(1-azetidinvl)-9H-purin-9-yl]-2-(hydroxymethyl)-1-cyclopentanol | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)N1CCC1 | C14H20N6O2
